US06399798B2
Preparation of N-(5-chlorosalicyloyl)-8-aminocaprylic Acid
222 L of dry dimethylacetamide was charged to a dry 200 gallon glass-lined reactor. The reactor agitator was set to 100-125 rpm. Cooling was applied to the condenser and valve reactor overheads were set for distillation. 41.6 kg of dry anhydrous sodium carbonate was charged to the reactor and the reactor charging port was closed. Caution was used due to some off-gassing and a slight exothermic reaction. 77.5 kg of dry 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione was charged to the reactor. Quickly, 88 kg of dry ethyl-8-bromooctanoate was charged to the reactor. The reaction was evacuated to 22-24 inches of vacuum and the reactor temperature was raised to 65-75° C. The reactor temperature was maintained and the contents were watched for foaming. The reactor mixture was sampled and monitored for conversion by monitoring for the disappearance of the bromo ester in the reaction mixture by gas chromatography. The reaction was complete (0.6% bromo ester was found) after 7 hours. The vacuum was broken and the reactor contents cooled to 45-50° C. The contents were centrifuged and the filtrate sent into a second 200 gallon glass-lined reactor. 119 L of ethanol (200 proof denatured with 0.5% toluene) was charged to the first 200 gallon reactor, wanned to about 45° C. and the filter cake washed with warm ethanol and this wash was charged to the reaction mixture in the second 200 gallon reactor.

reactant | 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione | 77.5 kg | ClC=1C=CC2=C(C(NC(O2)=O)=O)C1 | C8H4ClNO3
reactant | ethyl-8-bromooctanoate | 88 kg | C(C)OC(CCCCCCCBr)=O | C10H19BrO2
solvent | dimethylacetamide | 222 L | CC(=O)N(C)C | C4H9NO
product | N-(5-chlorosalicyloyl)-8-aminocaprylic Acid | ClC1=CC=C(C(C(=O)NCCCCCCCC(=O)O)=C1)O | C15H20ClNO4
